US05654294
g) (3S-trans)-Hexahydro-3-[[(1.1-dimethylethoxy)carbonyl]amino]-7-methyl-2-oxo-1H-azepine-1-acetic acid, ethyl ester
A solution of (3S-trans)-hexahydro-3-[[(1,1-dimethylethoxy)carbonyl]amino]-7-methyl-2H-azepin-2-one (313 mg., 1.3 mmol.) in tetrahydrofuran (8 ml.) at room temperature under argon was treated with the dropwise addition of 1.0M lithium bis(trimethylsilyl)amide in tetrahydrofuran (1.7 ml., 1.7 mmol.) immediately followed by the dropwise addition of ethyl bromoacetate (0.30 ml., 2.65 mmol.). The resulting mixture was stirred for 15 minutes, quenched with aqueous ammonium chloride, diluted with water and extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried (sodium sulfate), filtered and concentrated to a yellow oil. Following flash chromatography (E Merck silica gel) eluting with 2:1 hexane/ethyl acetate, 360 mg. of title compound was obtained as a light yellow oil; TLC (1:1 ethyl acetate:hexane) Rf =0.56.

reactant | (3S-trans)-hexahydro-3-[[(1,1-dimethylethoxy)carbonyl]amino]-7-methyl-2H-azepin-2-one | 1.3 mmol, 313 mg | CC(C)(OC(=O)N[C@@H]1C(N[C@H](CCC1)C)=O)C | C12H22N2O3
reactant | lithium bis(trimethylsilyl)amide | 1.0M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethyl bromoacetate | 2.65 mmol, 0.30 ml | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.7 mmol, 1.7 ml | O1CCCC1 | C4H8O
product | (3S-trans)-Hexahydro-3-[[(1.1-dimethylethoxy)carbonyl]amino]-7-methyl-2-oxo-1H-azepine-1-acetic acid, ethyl ester | CC(C)(OC(=O)N[C@@H]1C(N([C@H](CCC1)C)CC(=O)OCC)=O)C | C16H28N2O5
